US04749791
4.0 g of 7-chloro-1,2,5,6-tetrahydrobenzo[f]quinolin-3(4H)-one were added portionwise within 35 minutes at between 20° and 25° to a suspension, stirred under nitrogen, of 1.30 g of lithium aluminum hydride in 60 ml of dry tetrahydrofuran. The reaction mixture was subsequently heated to boiling under reflux for 150 minutes, then cooled and thereupon treated at between 0° and 10° with 4.2 ml of 6.5N sodium hydroxide solution. The resulting suspension was filtered, whereupon the filter residue was rinsed with 5×20 ml of tetrahydrofuran each time and the filtrate was evaporated in vacuo. The thus-obtained crude 7-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline was taken up in 10 ml of pyridine and 9.0 ml of acetic anhydride. The reaction mixture was left to stand at room temperature for 20 hours, evaporated, the residue remaining behind was taken up twice in 50 ml of dry toluene and the solutions obtained were evaporated to dryness. The residue was dissolved in methylene chloride and chromatographed on 70 g of silica gel (particle size 0.04-0.063 mm). The 4-acetyl-7-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline, eluted with chloroform, exhibits a melting point of 89°-90° after recrystallization from isopropyl ether.

reactant | 7-chloro-1,2,5,6-tetrahydrobenzo[f]quinolin-3(4H)-one | 4.0 g | ClC1=CC=CC=2C=3CCC(NC3CCC21)=O | C13H12ClNO
reactant | lithium aluminum hydride | 1.30 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 6.5N, 4.2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 7-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | ClC1=CC=CC=2C=3CCCNC3CCC21 | C13H14ClN
